US07112594B2
[3-(N-(3-cyano-4-(4-hydroxypiperidin-1-yl)phenyl)carbamoyl)-5-fluoro-2-methylindol-1-yl]acetic acid
By the reaction and treatment in the same manner as in Example 3 using 1-(ethoxycarbonylmethyl)-5-fluoro-2-methyl-indole-2-carboxylic acid (3 g) obtained by reacting 5-fluoro-2-methyl-1H-indole-2-carboxylic acid with potassium carbonate and bromoethyl acetate in dimethylformamide and 5-amino-2-(4-hydroxypiperidin-1-yl)benzonitrile (3.2 g), the title compound (1.4 g) was obtained.

reactant | 1-(ethoxycarbonylmethyl)-5-fluoro-2-methyl-indole-2-carboxylic acid | 3 g | C(C)OC(=O)CN1C(CC2=CC(=CC=C12)F)(C(=O)O)C | C14H16FNO4
reactant | 5-fluoro-2-methyl-1H-indole-2-carboxylic acid | FC=1C=C2CC(NC2=CC1)(C(=O)O)C | C10H10FNO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | bromoethyl acetate | C(C)(=O)OCCBr | C4H7BrO2
reactant | 5-amino-2-(4-hydroxypiperidin-1-yl)benzonitrile | 3.2 g | NC=1C=CC(=C(C#N)C1)N1CCC(CC1)O | C12H15N3O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | [3-(N-(3-cyano-4-(4-hydroxypiperidin-1-yl)phenyl)carbamoyl)-5-fluoro-2-methylindol-1-yl]acetic acid | 1.4 g | C(#N)C=1C=C(C=CC1N1CCC(CC1)O)NC(=O)C1=C(N(C2=CC=C(C=C12)F)CC(=O)O)C | C24H23FN4O4
